US08106221B2
To a suspension of NaH (0.5 g, 12.5 mmol) in THF (400 mL) at 0-5° C. was added drop wise a solution of tert-butyl 3-(5-chloro-2-methylphenyl)-3-hydroxypropyl(methyl)carbamate (1.3 g, 4.15 mmol) in anhydrous THF/DMF (24/16 mL), the reaction mixture was stirred for 1 h at room temperature. A solution of ethyl bromoacetate (2.1 g, 12.5 mmol) in anhydrous THF (13 mL) was added drop wise to the above mixture, the reaction mixture was stirred at room temperature overnight. The reaction mixture was poured into saturated aqueous NH4Cl, and then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to afford crude ethyl 2-(3-(tert-butoxycarbonyl(methyl)amino)-1-(5-chloro-2-methylphenyl)propoxy)acetate (800 mg, 60%), which was used for next step without purification. 1H NMR (CDCl3, 400 MHz) δ 1.45 (s, 9H), 1.68 (s, 3H), 1.87 (m, 2H), 2.25 (m, 2H), 2.90 (s, 3H), 4.63 (m, 1H), 7.13 (m, 2H), 7.38 (m, 1H).

reactant | NaH | 12.5 mmol, 0.5 g | [H-].[Na+]
reactant | tert-butyl 3-(5-chloro-2-methylphenyl)-3-hydroxypropyl(methyl)carbamate | 4.15 mmol, 1.3 g | ClC=1C=CC(=C(C1)C(CCN(C(OC(C)(C)C)=O)C)O)C | C16H24ClNO3
reactant | ethyl bromoacetate | 12.5 mmol, 2.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF DMF | 16 mL | C1CCOC1.CN(C)C=O
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | ethyl 2-(3-(tert-butoxycarbonyl(methyl)amino)-1-(5-chloro-2-methylphenyl)propoxy)acetate | 800 mg, 60% | C(C)(C)(C)OC(=O)N(CCC(OCC(=O)OCC)C1=C(C=CC(=C1)Cl)C)C | C20H30ClNO5
